US05302739
Preparation of methyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-[1-(N-ethoxyimino)ethyl]benzoate (Compound No. 11)
1.0 g of methyl 2-acetyl-6-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate, 1.18 g of ethoxyamine hydrochloride and 1.18 g of potassium acetate were added to 30 ml of methanol, and the resultant mixture was refluxed with stirring for 5 hours. The reaction mixture was then poured into a cold water, and was extracted with ethyl acetate. The organic layer thus formed was washed with firstly dilute hydrochloric acid, then aqueous solution of sodium hydrogencarbonate and water in sequence. The organic layer was then dried and concentrated to obtain a solid. The solid product thus obtained was washed with n-hexane to obtain 0.76 g of the aimed compound (melting point=93° to 95° C.) at a yield of 67% as a colorless transparent crystal.

reactant | methyl 2-acetyl-6-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate | 1.0 g | C(C)(=O)C1=C(C(=O)OC)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C16H16N2O6
reactant | ethoxyamine hydrochloride | 1.18 g | Cl.C(C)ON
reactant | potassium acetate | 1.18 g | C(C)(=O)[O-].[K+]
reactant | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
product | methyl 2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-[1-(N-ethoxyimino)ethyl]benzoate | 0.76 g, yield of 67% | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OC)C(=CC=C1)C(C)=NOCC | C18H21N3O6
